US06184188B2
Preparation of 3,7-dimethyl-1,6octadien-3-yl 3-(β-naphthyl)-3-oxo-propionate
Crude 3,7-dimethyl-1,6-octadien-3-yl 3-oxo-butyrate (154.51, 0.648 mol) from above is placed in a 3000 mL three-necked round-bottomed flask fitted with a condenser, argon inlet, addition funnel, magnetic stirrer and internal thermometer. The contents are dissolved in 350 mL of dichloromethane and treated with powdered calcium hydroxide (50.44 g, 0.681 mol). The mixture is stirred at 30° C. for 30 min and then heated to 40° C. 2-Naphthoyl chloride (142.12 g, 0.746 mol) dissolved in 20 mL of dichloromethane is added dropwise over 15 min. The mixture continues to be heated at this temperature for 1 h. Ammonium chloride (36.41 g, 0.681 mol) dissolved in 250 mL of water is added to the reaction mixture and the pH adjusted to ˜9 with 28% ammonium hydroxide. After stirring 30 min at 35° C. the pH is adjusted to ˜1 with 20% HCl. The mixture is transferred to a separatory fumnel containing diethyl ether (500 mL) and water (500 mL). The layers are separated and the organic phase is washed with saturated NaHCO3 solution (2×500 mL), dried over MgSO4, filtered and concentrated by rotary evaporation to give a yellow red oil. At this point a light yellow solid precipitates from the mixture. An equal volume of hexane is added and the solids is collected by filtration and dried. NMR analysis indicates the solid is 2-naphthoic acid. The eluent is concentrated again by rotary evaporation to give a red oil. The oil is taken up in an equal volume of dichloromethane, passed through a plug of silica gel (400 g) and eluted with dichloromethane. The mixture is concentrated by rotary evaporation and stripped by Kugelrohr distillation (40° C., 0.10 mm Hg, 30 min) to yield 173.26 g (76.3%) of the product as a red oil; this product is a mixture of a 1:10 molar ratio of linalyl acetoacetate to linalyl (2-naphthoylacetate. A portion of this material is purified by column chromatography (elution with 2.5% ethyl acetate in hexanes) to give the desired product as a light yellow oil.

reactant | linalyl acetoacetate | C(CC(=O)C)(=O)OC(C)(C=C)CCC=C(C)C | C14H22O3
reactant | 2-naphthoylacetate | C1=C(C=CC2=CC=CC=C12)C(=O)CC(=O)[O-]
product | 3,7-dimethyl-1,6octadien-3-yl 3-(β-naphthyl)-3-oxo-propionate | C1=C(C=CC2=CC=CC=C12)C(CC(=O)OC(C=C)(CCC=C(C)C)C)=O | C23H26O3
